US07553842B2
Step A: Preparation of (S)-(5-oxotetrahydrofuran-2-yl)methyl trifluoromethanesulfonate:
Trifluoromethanesulfonic anhydride (0.97 g, 3.4 mmol) was added dropwise to a 0° C. solution of (S)-5-(hydroxymethyl)-dihydrofuran-2(3H)-one (0.20 g, 1.7 mmol) and lutidine (0.41 g, 3.8 mmol) in CH2Cl2 (2 mL). The reaction was stirred at 0° C. for 1.5 hours, then diluted with 1:4 EtOAc/hexanes and passed through a plug of silica gel. The volatiles were removed under reduced pressure to yield a yellow oil which was used immediately without purification (0.38 g, 89%).

reactant | Trifluoromethanesulfonic anhydride | 3.4 mmol, 0.97 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (S)-5-(hydroxymethyl)-dihydrofuran-2(3H)-one | 1.7 mmol, 0.20 g | OC[C@@H]1CCC(O1)=O | C5H8O3
reactant | lutidine | 3.8 mmol, 0.41 g | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-(5-oxotetrahydrofuran-2-yl)methyl trifluoromethanesulfonate | FC(S(=O)(=O)OC[C@H]1OC(CC1)=O)(F)F | C6H7F3O5S
